US05124489
4-[2'-(3''-Methylbutoxy)ethyl]phenol
An autoclave was charged with isoamyl acetal of p-hydroxyphenylglyoxal (20 g, 65 mmol), palladium catalyst (2 g, 10% Pd/C 2 mmol) and methanol (150 ml, 5% HCl). After purging with nitrogen, the autoclave was pressured to 50 psig with hydrogen. After three (3) hours, the pressure dropped to 15 psig. The reaction was then recharged with hydrogen to 50 psig for one (1) hour. Then, it was further charged with hydrogen to 200 psig and was allowed to carry out the reaction overnight at 40° C. Analysis indicated a 40% yield of the product 4-2[2'(3''-methylbutoxy)ethyl]phenol, identified by MS m/z 208 (M+), 165, 137.

reactant | p-hydroxyphenylglyoxal | 65 mmol, 20 g | OC1=CC=C(C=C1)C(=O)C=O | C8H6O3
catalyst | palladium | 2 mmol, 2 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 4-[2'-(3''-Methylbutoxy)ethyl]phenol | 40% yield | CC(CCOCCC1=CC=C(C=C1)O)C | C13H20O2
